US04383945
2,6-Lutidine (3.82 ml) and phosphorus oxychloride (1.37 ml) were added to a solution of methyl 2-[(3R,4R)-3-formamido-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (970 mg) in dichloromethane (10 ml) at 0° C., and the mixture was stirred for three hours at 0° C. Then, the reaction mixture was poured into a mixture of ethyl acetate (100 ml) and brine (50 ml). The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The oily residue was chromategraphed on silica gel (15 g) eluting with a mixture of hexane and ethyl acetate (10:1-3:1) to give methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (766 mg) as an oil.

reactant | 2,6-Lutidine | 3.82 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | phosphorus oxychloride | 1.37 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl 2-[(3R,4R)-3-formamido-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 970 mg | C(=O)N[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C13H18N2O4
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | brine | 50 ml | [Cl-].[Na+].O
product | methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 766 mg | [N+](#[C-])[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C13H16N2O3
